US05037819
6-[N',N"-Di(Cbz)guanidino]hexanoic acid (31)
A methanolic (350 mL) solution of N, N'-dicarbobenzyloxy-S-methyl-isothiourea(60 g, 0.18 mol), triethylamine(18.2 g, 0.18 mol), and 6-aminocaproic acid (23.3 g, 0.18 mol) was refluxed for 30 min and subsequently stirred at room temperature for 4 h. The solution was concentrated, and the residue was partitioned between ethyl acetate and water. The organic phase was separated, dried (MgSO4), and concentrated. The residual solid was recrystallized from ethyl acetate/hexane to afford 52.3 g (66%) of the title product, mp 93° C.

reactant | N, N'-dicarbobenzyloxy-S-methyl-isothiourea | 0.18 mol, 60 g | C(=O)(OCC1=CC=CC=C1)NC(SC)=NC(=O)OCC1=CC=CC=C1 | C18H18N2O4S
reactant | triethylamine | 0.18 mol, 18.2 g | C(C)N(CC)CC | C6H15N
reactant | 6-aminocaproic acid | 0.18 mol, 23.3 g | NCCCCCC(=O)O | C6H13NO2
product | 6-[N',N"-Di(Cbz)guanidino]hexanoic acid | 52.3 g, 66% | C(=O)(OCC1=CC=CC=C1)N=C(NCCCCCC(=O)O)NC(=O)OCC1=CC=CC=C1 | C23H27N3O6
